US07148226B2
6-Cyclopentyl-3-(5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-6-[2-(5-ethyl-2-hydroxy-phenyl)-ethyl]-4-hydroxy-5,6-dihydro-pyran-2-one
5,7-Dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde (0.19 g, 1.1 mmol) was added to a solution of 6-cyclopentyl-6-[2-(5-ethyl-2-hydroxy-phenyl)-ethyl]-dihydro-pyran-2,4-dione (0.3 g, 0.91 mmol Example A(169)) in MeOH (8 mL). The reaction mixture was stirred for 15 mins and then treated with borane-dimethylamine complex (47 mg, 0.80 mmoL). After 24 hours the reaction mixture was filtered through a glass frit to remove a fine white ppt. The filtrate was concentrated and purified by prep HPLC to give the product (175 mg, 40%). 1H NMR (400 MHz, DMSO-d6) δ: 1.07 (t, J=7.6 Hz, 3 H), 1.41–1.72 (br m, 8 H), 1.97 (m, 1 H), 2.10 (m, 1 H), 2.41–2.73 (m, 13 H), 3.70 (d, J=16.2 Hz, 1 H), 3.79 (d, J=16.2 Hz, 1 H), 6.66 (d, J=8.1 Hz, 1 H), 6.81 (d, J=8.1 Hz, 1 H), 6.84 (s, 1 H), 7.02 (s, 1 H), 9.02 (s, 1 H), 10.88 (s, 1 H). MS (ESI): 491.20 (M+H+).

reactant | 5,7-Dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | 1.1 mmol, 0.19 g | CC1=NC=2N(C(=C1)C)N=C(N2)C=O | C8H8N4O
reactant | 6-cyclopentyl-6-[2-(5-ethyl-2-hydroxy-phenyl)-ethyl]-dihydro-pyran-2,4-dione | 0.91 mmol, 0.3 g | C1(CCCC1)C1(CC(CC(O1)=O)=O)CCC1=C(C=CC(=C1)CC)O | C20H26O4
solvent | MeOH | 8 mL | CO | CH4O
product | 6-Cyclopentyl-3-(5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-6-[2-(5-ethyl-2-hydroxy-phenyl)-ethyl]-4-hydroxy-5,6-dihydro-pyran-2-one | 175 mg, 40% | C1(CCCC1)C1(CC(=C(C(O1)=O)CC1=NN2C(N=C(C=C2C)C)=N1)O)CCC1=C(C=CC(=C1)CC)O | C28H34N4O4
